US08084621B2
6-amino-5-oxohexanoic acid hydrochloride (S1) 22.44 g (0.12 mol) (Lartillot, Serge. et al, Bulletin de la Societe Chimique de France, 1964, 4:783) was solved in about 6.1 L sodium dihydrogen phosphate buffer (300 g sodium dihydrogen phosphate was solved in 6 L water, then Saturated sodium hydroxide aqueous solution was added until a pH of about 6.5 was reached), and ethyl acetoacetate 16.12 g (0.12 mol) was added to the above-mentioned solution. The reaction solution was refluxed for half an hour, cooled to room temperature and Na2CO3 was added until a pH of about 8 was reached. The mixture was extracted with 100 ml CHCl3 and Aqueous phase was acidified with 6 mol/L HCl to pH 1. The brown solid was collected by filtration, washed with water and dried in vacuum condition to give 20.29 g (71%) 4-(4-(ethoxycarbonyl)-5-methyl-1H-pyrrol-3-yl)butanoic acid (S2).

reactant | 6-amino-5-oxohexanoic acid hydrochloride | 0.12 mol, 22.44 g | Cl.NCC(CCCC(=O)O)=O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl acetoacetate | 0.12 mol, 16.12 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | sodium dihydrogen phosphate | about 6.1 L | P(=O)(O)(O)[O-].[Na+]
solvent | water | 6 L | O | H2O
solvent | sodium dihydrogen phosphate | 300 g | P(=O)(O)(O)[O-].[Na+]
product | 4-(4-(ethoxycarbonyl)-5-methyl-1H-pyrrol-3-yl)butanoic acid | 20.29 g, 71% | C(C)OC(=O)C=1C(=CNC1C)CCCC(=O)O | C12H17NO4
